US04034021
Pivalolactone/Isoprene/Pivalolactone Copolymer (A)
After 0.5 hour at 60° C., the solution was cooled to room temperature and 5.5 ml of pivalolactone was added. The resultant mixture was warmed slightly, and in about 15 minutes gelation occurred and it became too viscous to stir. It was let stand at room temperature overnight, and then was mixed with 250 ml of tetrahydrofuran. The mixture was transferred to a blender, and after being blended it was centrifuged. Extraction with THF showed no homopolyisoprene. The mixture was finally processed in a blender with about an equal volume of ethanol containing acetic acid and phenyl-β-naphthylamine antioxidant. The shredded polymer was separated on a filter and dried at room temperature under vacuum; yield, 12.5 g (80%, based on starting materials). Analysis by I. R. indicated approximately 45% pivalolactone in the polymer.

reactant | pivalolactone | 5.5 ml | CC1(COC1=O)C | C5H8O2
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | Pivalolactone Isoprene Pivalolactone | CC1(COC1=O)C.C=CC(C)=C.CC1(COC1=O)C | InChI=1S/2C5H8O2.C5H8/c2*1-5(2)3-7-4(5)6;1-4-5(2)3/h2*3H2,1-2H3;4H,1-2H2,3H3
